US04145432
To a solution of diethyl 2-methyl-4-(2-allyloxyphenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (1.5 g) in acetone (15 ml) was added 6N-hydrochloric acid (15 ml) with stirring and the resultant mixture was further stirred for an hour and 45 minutes at room temperature. The solvent was removed, and addition of water to the residue resulted a yellowish suspension with precipitation of an oil, which was immediately solidified. After being allowed to stand for about 10 minutes, the precipitated solids were collected by filteration and washed with water and dried. Thus obtained crude crystals were recrystallized from a mixture of diisopropyl ether and acetone to give orange-yellow granules of diethyl 2-methyl-4-(2-allyloxyphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate, m.p. 129° to 131° C.

reactant | diethyl 2-methyl-4-(2-allyloxyphenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.5 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)OCC=C)C(=O)OCC)C(OCC)OCC | C26H35NO7
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | diethyl 2-methyl-4-(2-allyloxyphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)OCC=C)C(=O)OCC)C=O | C22H25NO6
